US04331683
trans-N-Decyl-2-(4-aminophenyl)cyclopropanecarboxamide
The title compound was prepared in 87% yield by reducing trans-N-decyl-2-(4-nitrophenyl)cyclopropanecarboxamide with iron powder in glacial acetic acid, in a manner analogous to Preparation 34.

reactant | trans-N-decyl-2-(4-nitrophenyl)cyclopropanecarboxamide | C(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H30N2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | trans-N-Decyl-2-(4-aminophenyl)cyclopropanecarboxamide | 87% yield | C(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N | C20H32N2O
